US03952012
A suspension of 3.03 g. (0.01 mole) of ethyl 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetate in 11 ml. of 1N sodium hyroxide solution is heated under reflux for 30 min. The solution is filtered while hot and acidified with dilute hydrochloric acid. The precipitate is collected, air dried and recrystallised from 2-propanol to give about 2.5 g. (91% yield) of 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetic acid as a white solid, m.p. 176°-178°C.

reactant | ethyl 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetate | 0.01 mole | CN1C(=CC(=C1C(C1=CC=C(C=C1)F)=O)C)CC(=O)OCC | C17H18FNO3
reactant | sodium hyroxide | 1N | [OH-].[Na+]
product | 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetic acid | 91% yield | CN1C(=CC(=C1C(C1=CC=C(C=C1)F)=O)C)CC(=O)O | C15H14FNO3
